US09289430B2
3-nitro-1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazole
Into a 250-mL round bottom flask, was placed a solution of 3-nitro-1H-1,2,4-triazole (2 g, 17.54 mmol, 1.00 equiv) in dichloromethane (100 mL), 3-(trifluoromethyl)phenylboronic acid (6.66 g, 35.05 mmol, 2.00 equiv), Cu(OAc)2 (4.79 g, 26.32 mmol, 1.50 equiv), pyridine (2.77 g, 35.06 mmol, 2.00 equiv), and molecular sieves (5.2 g). The resulting solution was stirred overnight at 30° C. The solids were filtered out. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:20-1:10) to give 2.2 g (49%) of product as a white solid.

reactant | 3-nitro-1H-1,2,4-triazole | 17.54 mmol, 2 g, 1.00 equiv | [N+](=O)([O-])C1=NNC=N1 | C2H2N4O2
reactant | 3-(trifluoromethyl)phenylboronic acid | 35.05 mmol, 6.66 g, 2.00 equiv | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 35.06 mmol, 2.77 g, 2.00 equiv | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | Cu(OAc)2 | 26.32 mmol, 4.79 g, 1.50 equiv | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 3-nitro-1-(3-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | 2.2 g, 49% | [N+](=O)([O-])C1=NN(C=N1)C1=CC(=CC=C1)C(F)(F)F | C9H5F3N4O2
